US04518532
Synthesis of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide
A mixture of 234.5 mg (1.06 mmoles) of 7-guanidino-2-heptenamide hydrochloride, 372.3 mg (1.27 mmoles) of N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride, 140.4 mg (1.06 mmoles) of glutaric acid and 0.2 ml of water was heated at 60° C. for 24 hours. After completion of the reaction, the reaction mixture was purified in a manner similar to that in Example 1 using CM-Sephadex® C-25 (Na-type) and Sephadex® LH-20 to obtain 244.6 mg (46.5% yield) of a white powder of N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide trihydrochloride.

reactant | 7-guanidino-2-heptenamide hydrochloride | 1.06 mmoles, 234.5 mg | Cl.N(C(=N)N)CCCCC=CC(=O)N
reactant | N-[4-(3-aminopropyl)aminobutyl]-2,2-dihydroxyethanamide dihydrochloride | 1.27 mmoles, 372.3 mg | Cl.Cl.NCCCNCCCCNC(C(O)O)=O
reactant | glutaric acid | 1.06 mmoles, 140.4 mg | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide trihydrochloride | Cl.Cl.Cl.NCCCNCCCCNC(C(O)NC(C=CCCCCNC(=N)N)=O)=O
solvent | water | 0.2 ml | O | H2O
product | N-[4-(3-aminopropyl)aminobutyl]-2-(7-guanidino-2-heptenamido)-2-hydroxyethanamide | 244.6 mg, 46.5% yield | NCCCNCCCCNC(C(O)NC(C=CCCCCNC(=N)N)=O)=O | C17H35N7O3
